***  For BSIM3V3.1  general purpose check (Id-Vg) for Pmosfet***
******************************************

*** circuit description ***
m1 2 1 0 3 p1 L=0.35u W=10.0u
vgs 1 0 -3.5
vds 2 0 -0.1
vbs 3 0 0.0


.dc vgs 0 -3.5 -0.05 vds -0.1 -3.1 -1.

.print dc v(2) i(vds)
.include modelcard.pmos 
.end


